US07442698B2
(2-Chloropyrimidin-4-yl)-(2-pyridin-2-yl-ethyl)amine 2,4-Dichloropyrimidine (1.43 g, 9.60 mmol) was added to a solution of 2-(2-aminoethyl)pyridine (1.00 g, 8.19 mmol) in isopropanol (10 mL). N,N-Diisopropyl-ethylamine (1.24 g, 1.67 mL, 9.59 mmol) was added and the mixture stirred at room temperature overnight. The resulting suspension was concentrated to afford an off-white solid. This material was purified via column chromatography on silica gel (gradient elution with 0-10% ethanol-dichloromethane) to afford (2-chloropyrim-idin-4-yl)-(2-pyridin-2-yl-ethyl)amine as an off-white solid. MS (MH+) 235; Calculated 234.69 for C11H11ClN4.

reactant | (2-Chloropyrimidin-4-yl)-(2-pyridin-2-yl-ethyl)amine 2,4-Dichloropyrimidine | 9.60 mmol, 1.43 g | ClC1=NC=CC(=N1)Cl.ClC1=NC=CC(=N1)NCCC1=NC=CC=C1
reactant | 2-(2-aminoethyl)pyridine | 8.19 mmol, 1.00 g | NCCC1=NC=CC=C1 | C7H10N2
reactant | N,N-Diisopropyl-ethylamine | 9.59 mmol, 1.67 mL, 1.24 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | (2-chloropyrim-idin-4-yl)-(2-pyridin-2-yl-ethyl)amine | ClC1=NC=CC(=N1)NCCC1=NC=CC=C1 | C11H11ClN4
